US08293911B2
Step B: N-(4-Bromo-2-chloro-6-trifluoromethyl-phenyl)-3-cyclopentyl-propionamide
3-Cyclopentyl propionyl chloride (1.28 g, 8.0 mmol) was added to a solution of 4-bromo-2-chloro-6-(trifluoromethyl)aniline (2.0 g, 7.3 mmol) in acetonitrile (10 mL). The reaction mixture was stirred at room temperature overnight. Water was added, and the mixture was then extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated. Purification by column chromatography (100% DCM) afforded the title compound as a powder.

reactant | 3-Cyclopentyl propionyl chloride | 8.0 mmol, 1.28 g | C1(CCCC1)CCC(=O)Cl | C8H13ClO
reactant | 4-bromo-2-chloro-6-(trifluoromethyl)aniline | 7.3 mmol, 2.0 g | BrC1=CC(=C(N)C(=C1)C(F)(F)F)Cl | C7H4BrClF3N
reactant | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(4-Bromo-2-chloro-6-trifluoromethyl-phenyl)-3-cyclopentyl-propionamide | BrC1=CC(=C(C(=C1)C(F)(F)F)NC(CCC1CCCC1)=O)Cl | C15H16BrClF3NO
